US06716851B2
4-(3,4-Methylenedioxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine
The title compound was prepared from a mixture of 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine (50 mg, 0.193 mmol) and 3,4-methylenedioxyaniline (53 mg, 0.386 mmol) similar to Example 58 and isolated as a light brown solid (37 mg, 53%). 1H NMR (CDCl3): 9.63 (dd, J=0.9, 1.8 Hz, 1H), 8.73-8.68 (m, 2H), 7.43-7.39 (m, 1H), 6.93 (s, 1H), 6.88 (d, J=8.1 Hz, 2H), 6.83 (dd, J=1.8, 8.1 Hz, 1H), 6.77 (s, 1H), 6.06 (s, 2H).

reactant | 4-chloro-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | 0.193 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 3,4-methylenedioxyaniline | 0.386 mmol, 53 mg | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
product | 4-(3,4-Methylenedioxyanilino)-2-(3-pyridinyl)-6-(trifluoromethyl)pyrimidine | C1OC=2C=C(NC3=NC(=NC(=C3)C(F)(F)F)C=3C=NC=CC3)C=CC2O1 | C17H11F3N4O2
